US07569578B2
(±)-3-(1-(4-(7-Methyl-1H-indazol-5-yl)-3-(5-(piperidin-1-ylmethyl)pyridin-2-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one
A solution of (±)-6-(1-(7-methyl-1H-indazol-5-yl)-4-oxo-4-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)butan-2-yl)nicotinaldehyde (previous example, 8 mg, 0.015 mmol, 1.0 equiv.) in dichloroethane (1 mL) was treated with by 2 drops of piperidine. Excess Na(OAc)3BH was added and the reaction mixture was stirred at room temperature overnight. The mixture was directly purified by flash column chromatography (10% of 2M ammonia in methanol in methylene chloride) afforded the desired product (10.1 mg, 72% for two steps).

reactant | (±)-6-(1-(7-methyl-1H-indazol-5-yl)-4-oxo-4-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)butan-2-yl)nicotinaldehyde | 0.015 mmol, 8 mg, 1.0 equiv. | CC=1C=C(C=C2C=NNC12)CC(CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)C1=NC=C(C=O)C=C1 | C31H32N6O3
reactant | Na(OAc)3BH | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
product | (±)-3-(1-(4-(7-Methyl-1H-indazol-5-yl)-3-(5-(piperidin-1-ylmethyl)pyridin-2-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | 10.1 mg, 72% | CC=1C=C(C=C2C=NNC12)CC(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C1=NC=C(C=C1)CN1CCCCC1 | C36H43N7O2
